US07790720B2
A solution of methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylate ax60 (390 mg, 1.26 mmol, 1 eq) and methanol (165 μl, 4.08 mmol, 1.8 eq) in tetrahydrofuran (13 ml) is treated with lithium borohydride (49 mg, 2.27 mmol, 1.8 eq) and the mixture is stirred at 70° C. for 1 h. After cooling back to 0° C., the mixture is treated dropwise with 1 N aqueous hydrochloric acid (1 ml). The mixture is then made basic (pH 10) with 2 N aqueous sodium hydroxide and extracted with ethyl acetate. The organic phase is then dried over magnesium sulfate and concentrated to give 330 mg of {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazol-5-yl}methanol ax61 as a yellow solid.

reactant | methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylate | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)OC | C15H16ClNO4
reactant | methanol | 4.08 mmol, 165 μl, 1.8 eq | CO | CH4O
reactant | lithium borohydride | 2.27 mmol, 49 mg, 1.8 eq | [BH4-].[Li+]
reactant | hydrochloric acid | 1 N, 1 ml | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazol-5-yl}methanol | 330 mg, Yield: 93% | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)C)CO | C14H16ClNO3
